US05134167
5,5-Dimethyl-2-formyl-1-(p-chlorophenyl)-hex-2-ene (compound 136a)
79 g (0.79 mol) of 3,3-dimethylbutyraldehyde are added to a solution of 10.5 g of 50% strength by weight aqueous NaOH in 500 ml of methanol, after which 123 g (0.73 mol) of p-chlorodihydrocinnamaldehyde are added dropwise at 34° C. The mixture is stirred for one hour and then neutralized with dilute sulfuric acid, the solution is evaporated down and the residue is then subjected to fractional distillation.

reactant | 3,3-dimethylbutyraldehyde | 0.79 mol, 79 g | CC(CC=O)(C)C | C6H12O
reactant | NaOH | [OH-].[Na+]
reactant | p-chlorodihydrocinnamaldehyde | 0.73 mol, 123 g | ClC1=CC=C(CCC=O)C=C1 | C9H9ClO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 500 ml | CO | CH4O
product | 5,5-Dimethyl-2-formyl-1-(p-chlorophenyl)-hex-2-ene | CC(CC=C(CC1=CC=C(C=C1)Cl)C=O)(C)C | C15H19ClO
